US07820662B2
3-[3-(4-Methyl-piperazin-1-yl)-cyclobutyl]-1-(2-phenyl-4-trifluoromethyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine
1-iodo-3-[3-(4-methyl-piperazin-1-yl)-cyclobutyl]-imidazo[1,5-a]pyrazin-8-ylamine (120 mg, 0.00029 mole), 2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4-trifluoromethyl-quinoline (230 mg, 0.00058 mole), cesium carbonate (330 mg, 0.0010 mole), 1,2-dimethoxyethane (6 mL, 0.06 mole) and water (1 mL) were combined in a 25 ml round bottom flask with a magnetic stir bar. The flask was subjected to three vacuum, argon cycles and charged with tetrakis(triphenylphosphine)palladium(0) (35 mg, 0.000030 mole). The flask was subjected to three vacuum, argon cycles again. The reaction was stirred under argon at 75° C. (external temperature) overnight. The product mixture was concentrated in vacuo, then allowed to stand under vacuum for 1 h. The product mixture was then chromatographed on silica gel with methylene chloride, methanol, concentrated ammonium:hydroxide (140:10:1). Only the purest fractions were combined and concentration in vacuo, and placement under high vacuum for 30 minutes afforded the title compound as a yellow solid. The solid was re-crystallized from hexanes/ether to afford the title compound as a yellow solid; 1H NMR (CD3OD, 400 MHz) δ 2.14-2.62 (m, 15H), 2.78-2.82 (Q, 1H, J=7.9 Hz), 3.62-3.67 (Q, 1H, J=7.9H), 6.32 (bs, 2H), 7.12-7.14 (d, 1H, J=4.8 Hz), 7.58-7.64 (m, 4H), 8.16-8.22 (m, 2H), 8.39-8.42 (m, 3H), 8.48 (s, 1H); 19F NMR (DMSO, 400 MHz) δ 60.15; MS (ES+): 557.98 (10) [MH+]; HPLC TR 3.408 min. (100%) (polar—15 min).

reactant | 1-iodo-3-[3-(4-methyl-piperazin-1-yl)-cyclobutyl]-imidazo[1,5-a]pyrazin-8-ylamine | 0.00029 mole, 120 mg | IC=1N=C(N2C1C(=NC=C2)N)C2CC(C2)N2CCN(CC2)C | C15H21IN6
reactant | 2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4-trifluoromethyl-quinoline | 0.00058 mole, 230 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C22H21BF3NO2
reactant | cesium carbonate | 0.0010 mole, 330 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2-dimethoxyethane | 0.06 mole, 6 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.000030 mole, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1 mL | O | H2O
product | 3-[3-(4-Methyl-piperazin-1-yl)-cyclobutyl]-1-(2-phenyl-4-trifluoromethyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine | CN1CCN(CC1)C1CC(C1)C1=NC(=C2N1C=CN=C2N)C2=CC=C1C(=CC(=NC1=C2)C2=CC=CC=C2)C(F)(F)F | C31H30F3N7
